US06897224B2
14.2 g of 2,3-dihydroxy-4-nitrobenzaldehyde in 1000 ml of DMF is stirred with 57.6 ml of bromochloromethane and 50.6 g of cesium carbonate at 100° C. for 7 hours. The batch is added to 1 N hydrochloric acid and extracted with ethyl acetate. The organic phase is washed several times with water and brine, dried with sodium sulfate and concentrated by evaporation in a vacuum. The brown solid that is obtained is purified by column chromatography (silica gel, hexane/ethyl acetate 100:0→60:40). 7.4 g of 7-nitro-benzo[1,3]dioxole-4-carbaldehyde is obtained as a light yellow solid. The latter is mixed in 400 ml of acetone at 10° C. with a solution of 11.8 g of potassium permanganate in 190 ml of acetone/water (1:1). It was stirred for 10 hours, added to 2 N hydrochloric acid and filtered through diatomaceous earth. The acetone is removed in a vacuum, and the aqueous phase is made alkaline with sodium hydroxide solution. It is extracted with ether, and then the aqueous phase is acidified with hydrochloric acid. It is extracted with ethyl acetate, washed with water, dried with sodium sulfate and concentrated by evaporation in a vacuum. 4.36 g of7-nitro-benzo[1,3]dioxole-4-carboxylic acid is obtained as a brown solid, flash point 230-239° C.

reactant | 2,3-dihydroxy-4-nitrobenzaldehyde | 14.2 g | OC1=C(C=O)C=CC(=C1O)[N+](=O)[O-] | C7H5NO5
reactant | bromochloromethane | 57.6 ml | BrCCl | CH2BrCl
reactant | cesium carbonate | 50.6 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | DMF | 1000 ml | CN(C)C=O | C3H7NO
product | 7-nitro-benzo[1,3]dioxole-4-carbaldehyde | 7.4 g | [N+](=O)([O-])C1=CC=C(C2=C1OCO2)C=O | C8H5NO5
